* C:\IMR_Projects\IMR\Softcore_SA_P2\Simulation\SPICE\Sallen & Key LPF.asc
V1 VCC 0 3.3V
V2 VIN 0 SINE(.344 .306 1E5 0 0 0 50) AC 1
R3 VOUT N005 440
R2 N007 N002 220
R1 N002 VBUF 220
C2 N007 0 100e-12
C1 VOUT N002 200e-12
R4 VBUF N004 100
R5 N008 VIN 1K
D1 N008 VCC 1N4148
D2 0 N008 1N4148
R6 VOUT_2 N003 440
R7 N006 N001 220
R8 N001 VOUT 220
C3 N006 0 100e-12
C4 VOUT_2 N001 200e-12
R10 N008 N009 1K
V3 N009 0 1.5V
R11 N004 0 100
V4 VTEST 0 1V
XU2 N008 N004 VCC 0 VBUF ADA4896-2
XU1 N007 N005 VOUT VCC 0 LT1818
XU3 N006 N003 VOUT_2 VCC 0 LT1818
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100e-6
;ac dec 100 100 10e6
* R3 and R6 can be their value or 0.  When sum of input resistors a balance of the input impedance to both + / - terminals.\nOtherwise it does not play into circuit calculation
* w = 2piF = 1 / SQRT(R1*R2*C1*C2)\nQ = SQRT(R1*R2*C1*C2) / (C2(R1 + R2))
* Per Stage -40dB/Decade\nPer Q = 0.707\nTotal Roll Off -80dB/Decade\nvoltage noise per stage = 2.44uV @5MHz\ncumulative voltage noise - vector sum = 3.87uV @5MHz
* U2 ADA4896 has a wider input Common Mode Voltage range.  \nU1 and U3 are cheaper componets but still have a large GBP necessary for filter operation
.lib ADA4896-2.lib
.lib LTC2.LIB
.backanno
.end
